US08304557B2
N-{5-[(6-aminopyridin-3-yl)oxy]-2-chlorophenyl}-1,3-dimethyl-1H-pyrazole-5-carboxamide
In the same manner as in Reference Example 3 and using 5-(3-amino-4-chlorophenoxy)pyridin-2-amine (2.01 g, 8.55 mmol), pyridine (725 μL, 8.98 mmol), 1,3-dimethyl-1H-pyrazole-5-carbonyl chloride (1.42 g, 8.98 mmol) and tetrahydrofuran (50 mL) as starting materials, the title compound (306 mg, 10%) was obtained as a white solid.

reactant | 5-(3-amino-4-chlorophenoxy)pyridin-2-amine | 8.55 mmol, 2.01 g | NC=1C=C(OC=2C=CC(=NC2)N)C=CC1Cl | C11H10ClN3O
reactant | pyridine | 8.98 mmol, 725 μL | N1=CC=CC=C1 | C5H5N
reactant | 1,3-dimethyl-1H-pyrazole-5-carbonyl chloride | 8.98 mmol, 1.42 g | CN1N=C(C=C1C(=O)Cl)C | C6H7ClN2O
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
product | N-{5-[(6-aminopyridin-3-yl)oxy]-2-chlorophenyl}-1,3-dimethyl-1H-pyrazole-5-carboxamide | 306 mg, 10% | NC1=CC=C(C=N1)OC=1C=CC(=C(C1)NC(=O)C1=CC(=NN1C)C)Cl | C17H16ClN5O2
